US07902363B2
A mixture of 4,4,5,5-tetramethyl-2-(4-octylphenyl)-1,3,2-dioxaborolane (415.0 mg, 1.31 mmol), 4-bromo-2,3,5,6-tetrafluorobenzenamine (213.0 mg, 0.87 mmol), and a quaternary ammonium salt (Aliquat 336, 0.090 g) was degassed three times with nitrogen before dry toluene (7.0 mL) was added. This step was followed by addition of tetrakis(triphenylphosphine) palladium (100.0 mg) and sodium carbonate (aq. 1 M, 4.0 mL), which had been deaerated for 2 hour, under nitrogen. The mixture was stirred vigorously, and heated at reflux for 20 hours. The organic phase of the resulting reaction mixture was filtered through a thin layer of Celite® and evaporated to dryness to give 0.6 g of a crude product. The crude material was purified by chromatography on silica gel (by using ethyl acetate:hexanes (1:9) as the eluent) to yield 2,3,5,6-tetrafluoro-4′-octylbiphenyl-4-amine as an off-white solid (0.280 g, 91% yield).

reactant | 4,4,5,5-tetramethyl-2-(4-octylphenyl)-1,3,2-dioxaborolane | 1.31 mmol, 415.0 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCCCCCC)C | C20H33BO2
reactant | 4-bromo-2,3,5,6-tetrafluorobenzenamine | 0.87 mmol, 213.0 mg | BrC1=C(C(=C(C(=C1F)F)N)F)F | C6H2BrF4N
product | 2,3,5,6-tetrafluoro-4′-octylbiphenyl-4-amine | 0.280 g, 91% yield | FC1=C(C(=C(C(=C1F)N)F)F)C1=CC=C(C=C1)CCCCCCCC | C20H23F4N
